US07897640B2
Weigh 5.0 mg of shikonin, β,β-dimethylacrylshikonin, acetylshikonin obtained in Preparation example 1 or Preparation example 2, respectively. Dissolve the compounds in 1 ml DMSO. After diluting by 50 times with RPMI-1640 culture medium, pack them separately and further dilute into the following concentration: 100, 50, 25, 12.5, 6.25, 3.13, 1.56, 0.78, 0.39 (μg/ml).

reactant | β,β-dimethylacrylshikonin | CC(=CCC(C1=CC(=O)C2=C(C=CC(=C2C1=O)O)O)OC(=O)C=C(C)C)C | C21H22O6
reactant | acetylshikonin | CC(=CC[C@H](C1=CC(=O)C=2C(=CC=C(C2C1=O)O)O)OC(=O)C)C | C18H18O6
product | shikonin | 5.0 mg | CC(=CC[C@H](C1=CC(=O)C=2C(=CC=C(C2C1=O)O)O)O)C | C16H16O5
